US07626021B2
300 mg of 2-(2-bromo-acetylamino)-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide was dissolved in 5 mL of glacial acetic acid. 400 μL of 70% perchloric acid was added and the resulting solution stirred at ambient temperature for 23 h. 85 mL of water was added and the resulting precipitate filtered off and dried by suction to afford 162 mg (0.32 mmol, 68%) of 2-(2-bromo-acetylamino)-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide as a yellow solid. MS: m/z 508.0+510.1 (M+H+).

reactant | 2-(2-bromo-acetylamino)-5-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 300 mg | BrCC(=O)NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C30H36BrN5O4Si
reactant | perchloric acid | 400 μL | Cl(=O)(=O)(=O)O | ClHO4
reactant | water | 85 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-(2-bromo-acetylamino)-5-[3-(2-methoxy-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.32 mmol, 162 mg, 68% | BrCC(=O)NC1=C(C(=O)N(C)C)C=C(C=C1)C=1C=C2C(=NC1)NN=C2C2=C(C=CC=C2)OC | C24H22BrN5O3
